* A:\Dropbox\GitHub\quiz2matlab\et52b\lab06\TBJ01a.asc
V1 V1 0 {Vcc}
Rb V1 B {Rb}
Rc V1 C {Rc}
Q1 C B 0 0 BC546B
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.op
.param Vcc=50 Rb=680k Rc=100
.meas VRc param V(V1)-V(c)
.meas VRb param V(V1)-V(b)
.meas PRb param VRb*I(Rb)
.meas PRc param VRc*I(Rc)
.meas Beta param I(Rc)/I(Rb)
.backanno
.end
